US08445731B2
While the test tube in which the acidic catalyst had been prepared was kept mounted in the apparatus, 0.71 g of acetone was introduced into the test tube to initiate reaction. After initiation of the reaction, the liquid reaction mixture was sampled at a given time interval, and the samples were analyzed in the same manner as in Example 4-1-1 to determine the yield of 4,4′-bisphenol A, the 4,4′-isomer/2,4′-isomer ratio, and the amounts of phenyl acetate and acetic acid formed. The results thereof are shown in Table 5.

reactant | acetone | 0.71 g | CC(=O)C | C3H6O
reactant | 4,4′-bisphenol A | CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O | C15H16O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | phenyl acetate | C(C)(=O)OC1=CC=CC=C1 | C8H8O2
